US03989704
To a flask equipped with a stirrer, dropping funnel, condenser and gas inlet tube and maintained under a nitrogen atmosphere there is added at room temperature 59 g. (0.221 mole) of N-tert.butyl-α-phenyl-o-toluamide in 1000 ml. dry tetrahydrofuran. The flask is immersed in an ice bath and cooled to an internal temperature of 5° C. Stirring is initiated and 336.5 ml. (0.490 mole) of n-butyl lithium (15% in hexane) is added dropwise in about 1 hour maintaining the temperature below 8° C. The resulting solution is stirred 2 hours at room temperature, cooled to 5° C., and 26.6 g. (0.221 mole) of pivaloyl chloride in 250 ml. of dry tetrahydrofuran is added dropwise maintaining temperature below 8° C. After addition, the mixture is stirred 2 hours at room temperature and hydrolyzed with 150 ml. of saturated ammonium chloride, the resulting solution is filtered and the layers separated. The organic layer is dried over magnesium sulfate, filtered and evaporated in vacuo. The residue is triturated with ether to give N-tert.butyl-α-phenyl-α-pivaloyl-o-toluamide; m.p. 157°-161° C.

reactant | N-tert.butyl-α-phenyl-o-toluamide | 0.221 mole | C(C)(C)(C)NC(=O)C=1C(=CC=CC1)CC1=CC=CC=C1 | C18H21NO
reactant | n-butyl lithium | 0.490 mole | C(CCC)[Li]
reactant | pivaloyl chloride | 0.221 mole | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-tert.butyl-α-phenyl-α-pivaloyl-o-toluamide | C(C)(C)(C)NC(=O)C=1C(=CC=CC1)C(C(C(C)(C)C)=O)C1=CC=CC=C1 | C23H29NO2
